US04353921
A. 2-Ethyl-1-[(2,6-dimethylphenyl)carbamoylmethyl]-2-imidazoline
In a manner similar to Ex. IA react 47.7 gm. (0.486 M) of 2-ethyl-2-imidazoline and 19.21 gm. (0.097 M) of 2-chloro-2',6'-acetoxylidide in 200 ml. of nitromethane, to obtain the title compound.

reactant | 2-ethyl-2-imidazoline | 0.486 M | C(C)C=1NCCN1 | C5H10N2
reactant | 2-chloro-2',6'-acetoxylidide | 0.097 M | CC1=C(C(=CC=C1)C)NC(=O)CCl | C10H12ClNO
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-Ethyl-1-[(2,6-dimethylphenyl)carbamoylmethyl]-2-imidazoline | C(C)C=1N(CCN1)CC(NC1=C(C=CC=C1C)C)=O | C15H21N3O
